US04120969
1-Cyclohexyl-4-[(4-hydroxy-4-phenyl-1-piperidinyl)methyl]-3,3-diphenyl-2-pyrrolidinone
To 150 ml. of ethanol in a steel bomb was added 15.0 g. (0.041 mole) of 1-cyclohexyl-4-chloromethyl-3,3-diphenyl-2-pyrrolidinone, 7.23 g. (0.041 mole) of 4-hydroxy-4-phenyl piperidine and 17.0 g. (0.12 mole) of potassium carbonate. The bomb was heated in an oven at 200° C. with stirring for 48 hours. The mixture was concentrated in vacuo, and the residue was partitioned between dilute sodium hydroxide solution and chloroform. The chloroform layer was dried, filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate and treated with ethereal hydrogen chloride. The solid which precipitated was the hydrochloride of starting piperidine compound. A further precipitate from the filtrate of this material contained a by-product of the reaction. The by-product was separated by filtration and the filtrate concentrated. The residue was partitioned between chloroform and sodium hydroxide solution, and the chloroform, after drying, was concentrated in vacuo. The residue was placed on a magnesium silicate column using chloroform as the eluent. The product was obtained upon subsequent washings of 1 and 2 percent methanol in chloroform. The washings were concentrated in vacuo, and the residue crystallized using an isopropyl ether-ethyl acetate mixture. The solid (1.5 g.; m.p. 179°-184° C.) after recrystallizing from ethyl acetate weighed 1.0 g. and melted at 188°-190° C.

reactant | 1-cyclohexyl-4-chloromethyl-3,3-diphenyl-2-pyrrolidinone | 0.041 mole | C1(CCCCC1)N1C(C(C(C1)CCl)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H26ClNO
reactant | 4-hydroxy-4-phenyl piperidine | 0.041 mole | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | potassium carbonate | 0.12 mole | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Cyclohexyl-4-[(4-hydroxy-4-phenyl-1-piperidinyl)methyl]-3,3-diphenyl-2-pyrrolidinone | C1(CCCCC1)N1C(C(C(C1)CN1CCC(CC1)(C1=CC=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H40N2O2
